US07482345B2
7-(2,4-difluorophenoxy)-1-(2,6-difluorophenyl)-2H-quinolizin-2-one
To a solution of 7-bromo-1-(2,6-difluorophenyl)-2H-quinolizin-2-one (100 mg, 0.3 mmole) was added 2,4-difluorophenol (0.06 ml, 0.6 mmole), 2,2,6,6-tetramethylheptane-3,5-dione (0.007 ml, 0.03 mmole), CuCl (15 mg, 0.15 mmole) and cesium carbonate (195 mg, 0.6 mmole) in NMP. The mixture was heated to 120° C. until the reaction completed. The mixture was diluted with ethyl acetate, washed with 1N HCl, 1N NaOH, brine, dried over MgSO4, and concentrated to yield crude material. The crude material was purified by silica gel chromatography (CH2Cl2/acetone) to yield the title compound.

reactant | 7-bromo-1-(2,6-difluorophenyl)-2H-quinolizin-2-one | 0.3 mmole, 100 mg | BrC1=CN2C=CC(C(=C2C=C1)C1=C(C=CC=C1F)F)=O | C15H8BrF2NO
reactant | 2,4-difluorophenol | 0.6 mmole, 0.06 ml | FC1=C(C=CC(=C1)F)O | C6H4F2O
reactant | 2,2,6,6-tetramethylheptane-3,5-dione | 0.03 mmole, 0.007 ml | CC(C)(C(CC(C(C)(C)C)=O)=O)C | C11H20O2
reactant | cesium carbonate | 0.6 mmole, 195 mg | C([O-])([O-])=O.[Cs+].[Cs+]
solvent | NMP | CN1CCCC1=O | C5H9NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | CuCl | 0.15 mmole, 15 mg | Cl[Cu]
product | 7-(2,4-difluorophenoxy)-1-(2,6-difluorophenyl)-2H-quinolizin-2-one | FC1=C(OC2=CN3C=CC(C(=C3C=C2)C2=C(C=CC=C2F)F)=O)C=CC(=C1)F | C21H11F4NO2
